US04725606
A solution of 2-benzyl-4-(2-chloro-4-pyridyl)thiazole (1.00 g, 0.0035 mol) in piperidine (15 mL) was heated to reflux for 16 hours. The reaction mixture was concentrated, taken up in ether (50 mL), filtered through celite, and the filtrate washed with water (2×). The ether layer was dried and concentrated. The residue was taken up in ethanol (20 mL) and treated with an excess of dry hydrochloric acid. Careful dilution with ether afforded 2-benzyl-4-[2-(1-piperidyl)-4-pyridyl]thiazole dihydrochloride (525 mg, 49%). mp. 145° C.

reactant | 2-benzyl-4-(2-chloro-4-pyridyl)thiazole | 0.0035 mol, 1.00 g | C(C1=CC=CC=C1)C=1SC=C(N1)C1=CC(=NC=C1)Cl | C15H11ClN2S
solvent | piperidine | 15 mL | N1CCCCC1 | C5H11N
product | 2-benzyl-4-[2-(1-piperidyl)-4-pyridyl]thiazole dihydrochloride | 525 mg, 49% | Cl.Cl.C(C1=CC=CC=C1)C=1SC=C(N1)C1=CC(=NC=C1)N1CCCCC1 | InChI=1S/C20H21N3S.2ClH/c1-3-7-16(8-4-1)13-20-22-18(15-24-20)17-9-10-21-19(14-17)23-11-5-2-6-12-23;;/h1,3-4,7-10,14-15H,2,5-6,11-13H2;2*1H
